US09402819B2
General Procedure for 2-amino-N-(2-methoxyphenyl)-6-(4-nitrophenyl-thio)benzamide hydrochloride
2-amino-N-(2-methoxyphenyl)-6-(4-nitrophenyl-thio)benzamide dissolved in EA, stirred at room temperature, while HCl is inlet till occurred to white solid. The reaction mixture was filtered to get White solid; 94.2% yield;

reactant | 2-amino-N-(2-methoxyphenyl)-6-(4-nitrophenyl-thio)benzamide | NC1=C(C(=O)NC2=C(C=CC=C2)OC)C(=CC=C1)SC1=CC=C(C=C1)[N+](=O)[O-] | C20H17N3O4S
reactant | HCl | Cl | ClH
solvent | EA | CC(OCC)=O | C4H8O2
product | 2-amino-N-(2-methoxyphenyl)-6-(4-nitrophenyl-thio)benzamide hydrochloride | 94.2% yield | Cl.NC1=C(C(=O)NC2=C(C=CC=C2)OC)C(=CC=C1)SC1=CC=C(C=C1)[N+](=O)[O-] | InChI=1S/C20H17N3O4S.ClH/c1-27-17-7-3-2-6-16(17)22-20(24)19-15(21)5-4-8-18(19)28-14-11-9-13(10-12-14)23(25)26;/h2-12H,21H2,1H3,(H,22,24);1H
